US08980276B2
Preparation 2: (S)-3-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yl)acrylonitrile
A mixture of (S)-3-bromo-5-(1-methylpyrrolidin-2-yl)pyridine (preparation 1) (300 mg, 1.24 mmol), palladium (II) acetate (14 mg, 0.06 mmol), tri(o-tolyl)phosphine (75 mg, 0.25 mmol) and triethylamine (0.35 mL, 2.48 mmol) in MeCN (10 mL) was degassed by bubbling argon through. Acrylonitrile (0.12 mL, 1.87 mmol) was then added and the reaction mixture heated at reflux temperature for 18 hours. The reaction mixture was cooled to room temperature, filtered through Celite, and the solvents evaporated to give a brown solid. The crude product was purified by flash chromatography (2% [20% ammonia in MeOH] in DCM) to give the title compound as a red-brown oil (188 mg, 71%, mixture of cis and trans isomers).

reactant | (S)-3-bromo-5-(1-methylpyrrolidin-2-yl)pyridine | 1.24 mmol, 300 mg | BrC=1C=NC=C(C1)[C@H]1N(CCC1)C | C10H13BrN2
reactant | tri(o-tolyl)phosphine | 0.25 mmol, 75 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.48 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | Acrylonitrile | 1.87 mmol, 0.12 mL | C(C=C)#N | C3H3N
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | palladium (II) acetate | 0.06 mmol, 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-3-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yl)acrylonitrile | 188 mg, 71% | CN1[C@@H](CCC1)C=1C=C(C=NC1)C=CC#N | C13H15N3
